US05116863
Process B: 11-Hydroxy-2-(2-triphenylmethyloxyethyl)-6,11-dihydrodibenz[b,e]oxepin
In this process, 17.2 g of 11-hydroxy-2-(2-hydroxyethyl)-6,11-dihydrodibenz[b,e]oxepin is dissolved in 50 ml of pyridine. To the solution is added 30 g of triphenylchloromethane and the mixture is stirred at 50° C. for 5 hours. After adding water and stirring the mixture for 2 hours, the solvent is distilled away under reduced pressure. The mixture is extracted with 1000 ml of ethyl acetate, washed with saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent is distilled away under reduced pressure and the resultant residue is purified by column chromatography on silica gel (eluent: hexane:ethyl acetate=3:1 ) to obtain 21.7 g of the desired product as a colorless amorphous.

reactant | triphenylchloromethane | 30 g | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | water | O | H2O
reactant | 11-hydroxy-2-(2-hydroxyethyl)-6,11-dihydrodibenz[b,e]oxepin | 17.2 g | OC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CCO | C16H16O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 11-Hydroxy-2-(2-triphenylmethyloxyethyl)-6,11-dihydrodibenz[b,e]oxepin | 21.7 g | OC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CCOC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C35H30O3
